US07361763B2
Step 3: Synthesis of 5-bromo-1H-pyrrolo[2,3-b]pyridine
To a solution of N-(5-bromo-3-trimethylsilanylethynyl-pyridin-2-yl)-acetamide (4.75 g, 15.26 mmol) in THF (90 ml) was added dropwise a 1 M solution of tetra-n-butyl ammonium fluoride in THF (30.5 ml, 30.5 mmol). After stirring at reflux for 15 hours, the reaction mixture was concentrated in vacuo and water was added. The aqueous layer was extracted three times with dichloromethane with, and the combined extracts were directly adsorbed on silica gel. Purification by flash chromotography on silica gel with a gradient of ethyl acetate/hexanes afforded 2.29 g of a beige solid. Recrystallization from ethyl acetate/hexanes provided the title compound as light beige flakes (1.33 g). Further purification of the filtrate on silica gel with a gradient of ethyl acetate/hexanes afforded more of the title compound as a crystalline powder (675 mg) for a combined yield of 2.01 g; 67%. 1H NMR (DMSO-d6): δ 11.89 (s, 1H), 8.24 (d, J=2.0 Hz, 1H), 8.17 (d, J=2.5 Hz, 1H), 7.53 (t, J=3.0 Hz, 1H), 6.42 (dd, J=1.0, 3.0 Hz, 1H); HPLC/MS m/z: 197 [MH]+.

reactant | N-(5-bromo-3-trimethylsilanylethynyl-pyridin-2-yl)-acetamide | 15.26 mmol, 4.75 g | BrC=1C=C(C(=NC1)NC(C)=O)C#C[Si](C)(C)C | C12H15BrN2OSi
reactant | tetra-n-butyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 30.5 mmol, 30.5 ml | C1CCOC1 | C4H8O
product | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 2.29 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
